US06476045B2
Methyl 5-Chloro-2-(4-chlorophenyl)-1-methyl-1H-pyrrolo[2,3-b]pyridine-3-propanoate
Sodium hydride (60% suspension in mineral oil, 15 mg, 0.38 mmol) was added to a stirred, cooled (0° C.) solution of methyl 5-chloro-2-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-propanoate (Description 4, 82 mg, 0.23 mmol) in dimethylformamide (5 mL) and the mixture was stirred at room temperature for 10 min. Iodomethane (24 μL, 54 mg, 0.38 mmol) was added and the mixture was stirred at room temperature for 5 min. Water (15 mL) was added and the mixture was extracted with ethyl acetate (3×15 mL). The combined organic fractions were washed with brine, dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound (82 mg, 96%). 1H NMR (360 MHz, CDCl3) δ 8.27 (1H, d, J 2.2 Hz), 7.87 (1H, d, J 2.2 Hz), 7.50 (2H, m), 7.34 (2H, m), 3.64 (3H, s), 3.60 (3H, s), 2.98 (2H, t, J 7.8 Hz), and 2.51 (2H, t, J 7.8 Hz).

reactant | Sodium hydride | 0.38 mmol, 15 mg | [H-].[Na+]
reactant | methyl 5-chloro-2-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-propanoate | 0.23 mmol, 82 mg | ClC=1C=C2C(=NC1)NC(=C2CCC(=O)OC)C2=CC=C(C=C2)Cl | C17H14Cl2N2O2
reactant | Iodomethane | 0.38 mmol, 24 μL, 54 mg | IC | CH3I
reactant | Water | 15 mL | O | H2O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Methyl 5-Chloro-2-(4-chlorophenyl)-1-methyl-1H-pyrrolo[2,3-b]pyridine-3-propanoate | 82 mg, 96% | ClC=1C=C2C(=NC1)N(C(=C2CCC(=O)OC)C2=CC=C(C=C2)Cl)C | C18H16Cl2N2O2
